US08049015B2
[2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amine and cyclopropanecarboxylic acid were reacted as described in Example 8, Step 6 to provide cyclopropanecarboxylic acid [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amide.

reactant | [2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amine | BrC=1C=C(C(=NC1)OC)C1=C(CNCC)C=C(C=C1)C(F)(F)F | C16H16BrF3N2O
reactant | cyclopropanecarboxylic acid | C1(CC1)C(=O)O | C4H6O2
product | cyclopropanecarboxylic acid [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amide | BrC=1C=C(C(=NC1)OC)C1=C(CN(C(=O)C2CC2)CC)C=C(C=C1)C(F)(F)F | C20H20BrF3N2O2
